US05391537
Preparation of methyl 3-benzyloxy-6-ethoxypicolinate
5.0 g (19 mmol) of methyl 3-benzyloxy-6-hydroxypicolinate, 2.1 g (19 mmol) of ethyl bromide and 2.9 g (21 mmol) of potassium carbonate were added to 100 ml of DMF, and the resultant mixture was reacted at 80° C. for 5 hours. After the reaction, the reaction content was poured into water, and was extracted with ethyl acetate, washed with water, dried and concentrated. The residue thus obtained was purified by column chromatography to obtain an aimed compound.

reactant | methyl 3-benzyloxy-6-hydroxypicolinate | 19 mmol, 5.0 g | C(C1=CC=CC=C1)OC=1C(=NC(=CC1)O)C(=O)OC | C14H13NO4
reactant | ethyl bromide | 19 mmol, 2.1 g | C(C)Br | C2H5Br
reactant | potassium carbonate | 21 mmol, 2.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | methyl 3-benzyloxy-6-ethoxypicolinate | C(C1=CC=CC=C1)OC=1C(=NC(=CC1)OCC)C(=O)OC | C16H17NO4
